US08431596B2
N-(4-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-benzamide (XX-221)
To a stirred suspension of [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.05 g, 0.121 mmol) and triethylamine (19 μl, 0.133 mmol) in dichloromethane (1 ml) was added benzoyl chloride (17 μl, 0.133 mmol). The mixture was stirred for 18 hours at room temperature, then filtered through a plug of silica, washed with methanol and the filtrates combined and concentrated in vacuo. The product was purified by preparatory LCMS to provide the desired product. RT: 2.77 min, MI: 519, Method: 2; 1H NMR (DMSO, 300 MHz): 8.62 (s, 1H), 8.07 (2H, d), 7.97 (2H, d), 7.92 (d, 2H) 7.54-7.41 (m, 5H), 7.01 (1H, d), 6.85 (d, 2H), 4.31 (t, 2H), 3.37 (t, 2H), 3.26 (s, 4H), 3.12 (s, 1H), 2.99 (s, 1H), 2.02 (s, 4H).

reactant | [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.121 mmol, 0.05 g | NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C24H26N6O
reactant | triethylamine | 0.133 mmol, 19 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.133 mmol, 17 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(4-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-benzamide | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C2=CC=C(C=C2)NC(C2=CC=CC=C2)=O)=N1 | C31H30N6O2
